US06248740B1
Production of 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid
1.40 g of methyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate was dissolved in 15 ml of tetrahydrofuran; 9 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 3 hours. After the mixture was concentrated under reduced pressure, the residue was ajusted to pH 4 by the addition of 1 N hydrochloric acid; the crystal precipitated was collected by filtration to yield 1.06 g of the title compound.

reactant | methyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 1.40 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC)(C)C | C11H12ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid | 1.06 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C | C10H10ClN3O2
